US06967254B2
2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid methyl ester
The solution of 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid 3.5 g in thionyl chloride 25 mL was heated to 70° C. for five hours. The reaction was cooled to 0° C., then was added methanol 50 mL. After warm to room temperature over one hour, all the solvent removed under reduced pressure. Work up using ethyl acetate and sodium bicarbonate give the light yellow solid. MS (ES+): 274 (M+H)+.

reactant | 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid | 3.5 g | ClC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=NC=C1 | C14H10ClNO2
reactant | methanol | 50 mL | CO | CH4O
solvent | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid methyl ester | COC(C(=CC1=CC=NC=C1)C1=CC=C(C=C1)Cl)=O | C15H12ClNO2
